US07176216B2
tert-Butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylcarbamate
A solution of n-butyllithium in hexane (1.6M, 3.88 mL, 6.18 mmol) was added dropwise to a solution of tert-butyl N-cyclopropylmethyl-N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate (1.5 g, 4.76 mmol) in tetrahydrofuran (15 mL) at −70° C. After stirring the reaction mixture for 50 minutes at the same temperature, 1,2-dibromotetrafluoroethane (1.0 mL, 8.33 mmol) was added dropwise to the reaction mixture. The temperature of the reaction mixture was slowly increased and aqueous sodium bicarbonate was added at 0° C. The reaction mixture was extracted with ethyl acetate, and the organic extract was washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) to afford 1.65 g of the title compound as a yellow oil (87.8% yield).

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 6.18 mmol, 1.6M, 3.88 mL | CCCCCC | C6H14
reactant | tert-butyl N-cyclopropylmethyl-N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate | 4.76 mmol, 1.5 g | C1(CC1)CN(C(OC(C)(C)C)=O)C=1C(=NN2C1C=CC=C2)CC | C18H25N3O2
reactant | 1,2-dibromotetrafluoroethane | 8.33 mmol, 1.0 mL | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | tert-Butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylcarbamate | 1.65 g, 87.8% yield | BrC1=CC=CC=2N1N=C(C2N(C(OC(C)(C)C)=O)CC2CC2)CC | C18H24BrN3O2
